US07709471B2
4-amino-3-fluoro-N-(1-methyl-4-piperidyl)benzamide
4-Amino-3-Fluorobenzoic acid (Fluorochem; 1 g, 6.44 mmol), 4-Amino-1-methylpiperidine (Fluorochem; 811 mg, 7.09 mmol), HATU (2.70 g, 7.09 mmol), DIPEA (3.4 mL, 19.32 mmol) and DMF (15 mL) were combined and stirred for 18 hrs at room temperature. The solvent was evaporated and the resultant material dissolved in DCM (with a little MeOH to aid solubility) and chromatographed on silica eluting with a gradient of 0-10% 2M ammonia in MeOH/DCM. Fractions containing product were combined and evaporated to give an orange solid which was dissolved in MeOH and added to a 50 g SCX-2 column pre-wet with MeOH (2 column volumes). The column was flushed with MeOH (2 column volumes) and the product eluted with 2M ammonia in MeOH. Product containing fractions were evaporated to yield the title compound as a beige solid. (1.72 g, 100%)

reactant | 4-Amino-3-Fluorobenzoic acid | 6.44 mmol, 1 g | NC1=C(C=C(C(=O)O)C=C1)F | C7H6FNO2
reactant | 4-Amino-1-methylpiperidine | 7.09 mmol, 811 mg | NC1CCN(CC1)C | C6H14N2
reactant | HATU | 7.09 mmol, 2.70 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 19.32 mmol, 3.4 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | CO | CH4O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-amino-3-fluoro-N-(1-methyl-4-piperidyl)benzamide | NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)F | C13H18FN3O
